### PR TITLE
[ new ] Tactic.Cong

### LINKED ISSUE #1136: Potential for a cong helper macro in Tactic module
[agda-holes](https://github.com/bch29/agda-holes) is a library that makes working with `cong` more convenient and succinct. This issue is for discussing the possibility of adding some similar functionality inside the `Tactic` module alongside the ring and monoid solvers.

agda-holes is not usable as-is. It has bit-rotted from the current stable Agda, and it also relies on uses of the `TERMINATING` pragma, which would presumably need to be removed and the corresponding functions refactored. It would also need to be made properly agnostic over `cong` implementations (e.g. from cubical Agda). I might be interested in undertaking the work to make it suitable for inclusion when I get some time, so I'm interested in whether this sounds like a good idea.

### PR DESCRIPTION
**Pull request by dylanede**
Fixes #1136. In doing so, it also adds machinery for applying reflected terms to each other, which could be useful for other tactics in the future.

### CODE REVIEW

**Comment by dylanede** [comment]
I realise now that I've missed out the "Agda Standard Library" blurb at the top of each new file. I'll update the PR soon.

File: CHANGELOG.md [hunk 1]
```diff
@@ -57,3 +61,4 @@ Other minor additions
 
 * Made first argument of [,]-∘-distr in `Data.Sum.Properties` explicit
 * Added map-id, map₁₂-commute, [,]-cong, [-,]-cong, [,-]-cong, map-cong, map₁-cong and map₂-cong to `Data.Sum.Properties`
+* `Reflection.Pattern`: Calculation of number of bound variables in patterns with `pattern-size` and `pattern-args-size`
```
Comment (MatthewDaggitt) [inline CHANGELOG.md:64]: Any chance you could add the types for these? Look at the CHANGELOG on master to give you an idea as to the format (omitting implicits or uninteresting variables)

File: src/Reflection/Pattern.agda [hunk 2]
```diff
@@ -98,3 +99,16 @@ absurd ≟ absurd = yes refl
 
 []      ≟s (_ ∷ _) = no λ()
 (_ ∷ _) ≟s []      = no λ()
+
+pattern-size : Pattern → ℕ
+pattern-args-size : List (Arg Pattern) → ℕ
+
+pattern-size (Pattern.con _ ps) = pattern-args-size ps
+pattern-size Pattern.dot = 1
```
Comment (MatthewDaggitt) [inline src/Reflection/Pattern.agda:107]: Minor I know, but any chance we could align these `=` signs?

File: src/Tactic/Cong.agda [hunk 3]
```diff
@@ -0,0 +1,185 @@
...
+--
+-- Macros for making working with cong more convenient
+------------------------------------------------------------------------
+
+{-# OPTIONS --without-K --safe #-}
+
+open import Level renaming (suc to lsuc; _⊔_ to lmax)
+open import Relation.Binary.Definitions
+open import Tactic.Cong.Id
+open import Data.Nat renaming (_≟_ to _≟ℕ_)
```
Comment (MatthewDaggitt) [inline src/Tactic/Cong.agda:12]: Imports should be in alphabetical order. Same comment below.

File: src/Tactic/Cong.agda [hunk 4]
```diff
@@ -0,0 +1,185 @@
...
+
+module Tactic.Cong
+  (recursion-limit : ℕ)
+  (_≡_ : ∀ {ℓ} {A : Set ℓ} → A → A → Set ℓ)
```
Comment (MatthewDaggitt) [inline src/Tactic/Cong.agda:16]: As this is an arbitrary equality can we use `\approx` instead of `\equiv`? Otherwise it's a bit confusing that it's not propositional equality. Hmm actually this type is interesting. You have to provide an equality over every type? So actually it does only work for propositional equality?

Comment (MatthewDaggitt) [reply src/Tactic/Cong.agda:16]: We also tend to use `a` and `b` for set levels, and `ℓ` is reserved for levels for the `Rel` type

File: src/Tactic/Cong.agda [hunk 5]
```diff
@@ -0,0 +1,185 @@
...
+open import Data.Product
+open import Data.Maybe hiding (_>>=_)
+
+infixr 2 _≡⌊_⌋_
+
+private
+  extract-f : Term → Term × Bool
+  extract-f term = let (term , state) = ex 0 term false in (vLam "hole" term , state )
+    where
+      open import Category.Monad.State
```
Comment (MatthewDaggitt) [inline src/Tactic/Cong.agda:47]: Contents of  a `where` block are indented at the same level as the `where`

File: src/Tactic/Cong.agda [hunk 6]
```diff
@@ -0,0 +1,185 @@
...
+open import Function.Base
+open import Relation.Nullary
+open import Data.Bool
+open import Data.Product
+open import Data.Maybe hiding (_>>=_)
+
+infixr 2 _≡⌊_⌋_
+
+private
+  extract-f : Term → Term × Bool
```
Comment (MatthewDaggitt) [inline src/Tactic/Cong.agda:44]: Any chance we could have a comment explaining what this function does? As I've found at with the ring-solver, trying to debug people's macro code is deeply unpleasant without any comments :smile:

File: src/Tactic/Cong.agda [hunk 7]
```diff
@@ -0,0 +1,185 @@
...
+open import Reflection.Pattern hiding (_≟_)
+open import Data.Unit
+open import Data.List
+open import Function.Base
+open import Relation.Nullary
+open import Data.Bool
+open import Data.Product
+open import Data.Maybe hiding (_>>=_)
+
+infixr 2 _≡⌊_⌋_
```
Comment (MatthewDaggitt) [inline src/Tactic/Cong.agda:41]: Could we move this to the actual definition of `_≡⌊_⌋_`?

File: src/Tactic/Cong.agda [hunk 8]
```diff
@@ -0,0 +1,185 @@
...
+      ex-clauses hole-i [] = return []
+      ex-clauses hole-i (clause ps t ∷ cs) = do
+        t ← ex (hole-i + pattern-args-size ps) t
+        cs ← ex-clauses hole-i cs
+        return $ clause ps t ∷ cs
+      ex-clauses hole-i (absurd-clause ps ∷ cs) = do
+        cs ← ex-clauses hole-i cs
+        return $ absurd-clause ps ∷ cs
+
+open import Reflection hiding (map-Args ; _≟_)
```
Comment (MatthewDaggitt) [inline src/Tactic/Cong.agda:105]: All imports should go at the top of the module.

File: src/Tactic/Cong.agda [hunk 9]
```diff
@@ -0,0 +1,185 @@
...
+  lhs : RelSide
+  rhs : RelSide
+
+private
+  Sort→Level : Sort → TC Level
+  Sort→Level unknown = typeError (strErr "Tactic.Cong: Could not determine sort of return type" ∷ [])
+  Sort→Level (set ℓ) = unquoteTC ℓ
+  Sort→Level (lit n) = return (for-n n)
+    where
+      for-n : ℕ → Level
```
Comment (MatthewDaggitt) [inline src/Tactic/Cong.agda:117]: This already exists as `#_` in `Level.Literals`

File: src/Reflection/Apply.agda [hunk 10]
```diff
@@ -0,0 +1,200 @@
...
+-- Function application of reflected terms
+------------------------------------------------------------------------
+
+{-# OPTIONS --without-K --safe #-}
+
+open import Data.Nat
+
+module Reflection.Apply (limit : ℕ) where
+
+open import Level renaming (suc to lsuc; _⊔_ to lmax)
```
Comment (MatthewDaggitt) [inline src/Reflection/Apply.agda:13]: Hmm `_⊔_ to lmax` isn't a standard renaming. Any chance we could keep `_⊔_`?

File: src/Tactic/Cong.agda [hunk 11]
```diff
@@ -0,0 +1,185 @@
...
+  -- for idiom brackets
+  _<*>_ : TC Term → Arg Term → TC Term
+  f <*> x = do
+    f ← f
+    case f ⟨ apply ⟩ x of λ {
+        (err e) → typeError $ strErr "Tactic.Cong:" ∷ e ;
+        (ok t) → return t
+      }
+
+  ⌊⌋' : ∀ {ℓ} {A : Set ℓ} {x y : A} → RelSide → x ≡ y → Term → TC ⊤
```
Comment (MatthewDaggitt) [inline src/Tactic/Cong.agda:134]: A comment as to what this does would be great.

File: README/Tactic/Cong.agda [hunk 12]
```diff
@@ -0,0 +1,67 @@
...
+module README.Tactic.Cong where
+
+-- Tactic.Cong provides a helper macro for using congruence when reasoning about
+-- relations. It allows the "hole" that you are operating in to be inferred from
+-- the relation instance you are operating on, through use of ⌊_⌋.
+
+-- Tactic.Cong is inspired by the agda-holes project.
+
+-- For this README, the relation used is _≡_, though any (non-dependent) relation
+-- with congruence and transitivity defined should work
```
Comment (MatthewDaggitt) [inline README/Tactic/Cong.agda:18]: This is great news, any chance we could add an example as a test?

Does it work for non-concrete relations, e.g. ones provided as arguments?

File: src/Reflection/Apply.agda [hunk 13]
```diff
@@ -0,0 +1,200 @@
...
+
+module _ where
+  import Data.Sum.Categorical.Left (List ErrorPart) 0ℓ as S
+  open import Category.Monad
+  open RawMonad S.monad
+
+  failed-app : Term → Arg Term → Result Term
+  failed-app t (arg _ a) = err (strErr "attempted to apply" ∷ termErr a ∷ strErr "to" ∷ termErr t ∷ [])
+
+  data Fuel : Set 0ℓ where
```
Comment (MatthewDaggitt) [inline src/Reflection/Apply.agda:42]: You can just write `Set`

File: src/Reflection/Apply.agda [hunk 14]
```diff
@@ -0,0 +1,200 @@
...
+open import Relation.Unary
+
+{- Retrieve any trailing arguments in a term -}
+term-args : Term → Maybe (Args Term)
+term-args (var _ args) = just args
+term-args (con _ args) = just args
+term-args (def _ args) = just args
+term-args (pat-lam _ args) = just args
+term-args (meta _ args) = just args
+term-args other = nothing
```
Comment (MatthewDaggitt) [inline src/Reflection/Apply.agda:184]: Any chance we could align the `=`?

File: src/Tactic/Cong/Id.agda [hunk 15]
```diff
@@ -0,0 +1,16 @@
...
+------------------------------------------------------------------------
+
+{-# OPTIONS --without-K --safe #-}
+
+module Tactic.Cong.Id where
+
+open import Level
+
+⌊_⌋ : ∀ {ℓ} {A : Set ℓ} → A → A
+⌊ a ⌋ = a
```
Comment (MatthewDaggitt) [inline src/Tactic/Cong/Id.agda:14]: What's the reason this lives in it's own file? I think we could quite happily put it in `Tactic.Cong`

File: src/Tactic/Cong.agda [hunk 16]
```diff
@@ -0,0 +1,185 @@
...
+
+macro
+  {- call cong, inferring the function argument from the use of ⌊_⌋. The side of
+     the relation inspected is determined by the RelSide parameter
+  -}
+  ⌊⌋ : ∀ {ℓ} {A : Set ℓ} {x y : A} → RelSide → x ≡ y → Term → TC ⊤
+  ⌊⌋ side = ⌊⌋' side
+
+  {- Convenience macro equivalent to using ⌊⌋ within _≡⟨_⟩_ -}
+  _≡⌊_⌋_ : ∀ {ℓ} {A : Set ℓ} → Term → {x y : A} → x ≡ y → Term → Term → TC ⊤
```
Comment (MatthewDaggitt) [inline src/Tactic/Cong.agda:175]: It's incredibly neat that we don't have to add it to every version of equational reasoning :tada:

File: src/Reflection/Apply.agda [hunk 17]
```diff
@@ -0,0 +1,200 @@
...
+
+  failed-app : Term → Arg Term → Result Term
+  failed-app t (arg _ a) = err (strErr "attempted to apply" ∷ termErr a ∷ strErr "to" ∷ termErr t ∷ [])
+
+  data Fuel : Set 0ℓ where
+    fuel : ℕ → Fuel
+
+  shift-index : ℕ → ℕ → Term → Term
+  shift-index-args : ℕ → ℕ → Args Term → Args Term
+  shift-index-clauses : ℕ → ℕ → List Clause → List Clause
```
Comment (MatthewDaggitt) [inline src/Reflection/Apply.agda:47]: A couple of comments about what these functions do would be awesome!

File: CHANGELOG.md (hunk 1 above)
Comment (dylanede) [reply CHANGELOG.md:64]: Sure. Also I wasn't sure whether those were the best names for those functions. Would `pattern-var-count` and `pattern-args-var-count` be better, or too verbose?

File: src/Reflection/Pattern.agda (hunk 2 above)
Comment (dylanede) [reply src/Reflection/Pattern.agda:107]: I think I can do that with my space-bar, yes.

File: src/Tactic/Cong.agda (hunk 3 above)
Comment (dylanede) [reply src/Tactic/Cong.agda:12]: Will do.

File: src/Tactic/Cong.agda (hunk 4 above)
Comment (dylanede) [reply src/Tactic/Cong.agda:16]: `\approx` makes sense.

Regarding the type signature, that's an oversight on my part. I'll have to see what I can do to make it take both relations that are generic over types and those that are not. Are there any existing signatures for this sort of thing in the library? Perhaps for relations over families of types?

Regarding the use of `ℓ`, that's accidental use of conventions from https://github.com/agda/cubical on my part. I'll change it.

File: src/Tactic/Cong.agda (hunk 5 above)
Comment (dylanede) [reply src/Tactic/Cong.agda:47]: OK

File: src/Tactic/Cong.agda (hunk 6 above)
Comment (dylanede) [reply src/Tactic/Cong.agda:44]: Sure.

File: src/Tactic/Cong.agda (hunk 7 above)
Comment (dylanede) [reply src/Tactic/Cong.agda:41]: Yep

File: src/Tactic/Cong.agda (hunk 8 above)
Comment (dylanede) [reply src/Tactic/Cong.agda:105]: OK. I imported it there so that its definitions of `_>>=_` and friends would not be visible in the above code and cause ambiguities. I'll change it to import at the top then `open` it here instead.

File: src/Tactic/Cong.agda (hunk 9 above)
Comment (dylanede) [reply src/Tactic/Cong.agda:117]: Ah, nice.

File: src/Reflection/Apply.agda (hunk 10 above)
Comment (dylanede) [reply src/Reflection/Apply.agda:13]: Another bit of convention from cubical. I changed it to lmax because it was clashing with the same name defined in Data.Nat. I guess I can just hide the definition from Data.Nat since I don't use it.

File: src/Tactic/Cong.agda (hunk 11 above)
Comment (dylanede) [reply src/Tactic/Cong.agda:134]: Will do.

File: src/Tactic/Cong.agda (hunk 16 above)
Comment (gallais) [reply src/Tactic/Cong.agda:175]: We should probably also have the `sym`'d one.

File: README/Tactic/Cong.agda (hunk 12 above)
Comment (dylanede) [reply README/Tactic/Cong.agda:18]: Yeah that would be a good idea.

It's intended to work with relations defined directly as an argument to the module, however I've just thought of an edge case that I did not cover. I'll fix that.

File: src/Reflection/Apply.agda (hunk 13 above)
Comment (dylanede) [reply src/Reflection/Apply.agda:42]: D'oh

File: src/Reflection/Apply.agda (hunk 14 above)
Comment (dylanede) [reply src/Reflection/Apply.agda:184]: My space-bar says it is up to the task, yes.

File: src/Tactic/Cong/Id.agda (hunk 15 above)
Comment (dylanede) [reply src/Tactic/Cong/Id.agda:14]: Turns out that it causes problems if it is defined directly inside the `Tactic.Cong` module, since internally Agda turns all definitions inside a parameterised module into definitions with extra parameters. This makes it much more awkward to refer to `⌊_⌋` in reflected terms, since these extra arguments must be supplied, and if you want to do this from within `Tactic.Cong`, supplying these arguments becomes quite circular.

I do wonder whether it would not extra-parameterise `⌊_⌋` if I put it _above_ the `module` line in Tactic.Cong. I'll try that.

File: src/Reflection/Apply.agda (hunk 17 above)
Comment (dylanede) [reply src/Reflection/Apply.agda:47]: Agreed.

**Comment by dylanede** [comment]
That conflict with functions from `Data.Rational` is a good point. Maybe I should switch back to `⌞⌟` that agda-holes uses? Personally I'm not overly keen on `⟪_⟫` because in my own code I use that extensively for other purposes, but that probably should not weigh on the decision.

I kind of like the look of `〖〗`, but that looks like it is difficult to type in emacs.

File: CHANGELOG.md (hunk 1 above)
Comment (dylanede) [reply CHANGELOG.md:64]: Another point is that I don't fully understand why `pattern-size` is defined the way it is. It is a copy of a function in agda-prelude by https://github.com/UlfNorell/agda-prelude. I do not understand why `dot` has a size of one since as far as I can tell using `.(...)` in patterns does not introduce new variables, and I do not know what `proj` corresponds to in concrete syntax. It all seems to work though.

File: README/Tactic/Cong.agda (hunk 12 above)
Comment (dylanede) [reply README/Tactic/Cong.agda:18]: Hmm, to work with any arbitrary term for the relation, I think it actually would be necessary to have a user-supplied function for extracting the left and right hand sides of the relation from a given instance of it. Instead, what I have at the moment should cover a lot of common use cases, but not all. A serviceable workaround for those remaining cases is for the user to create a definition then use that as the argument.

Perhaps it would be best to leave improving this to a future PR?

File: src/Tactic/Cong.agda (hunk 16 above)
Comment (dylanede) [reply src/Tactic/Cong.agda:175]: Has syntax been agreed for that yet?

File: src/Tactic/Cong.agda (hunk 4 above)
Comment (dylanede) [reply src/Tactic/Cong.agda:16]: This is the signature for the module I am trying to get to work now:
```agda
module Tactic.Cong
  (recursion-limit : ℕ)
  (Param : Setω)
  (Family-Level : Param → Level)
  (Family : (A : Param) → Set (Family-Level A))
  (_<_ : ∀ {A : Param} → Family A → Family A → Set (Family-Level A))
  (trans : ∀ {A : Param} → Transitive {A = Family A} _<_)
  (_≈_ : ∀ {a} {A : Set a} → A → A → Set a)
  (cong : {a b : Level}
          {A : Set a}
          {B : Set b}
          (f : A → B)
          {x y : A}
          (p : x ≈ y)
          → (f x) ≈ (f y))
```

Comment (dylanede) [reply src/Tactic/Cong.agda:16]: It is proving a bit difficult to get this signature to work, mainly due to https://github.com/agda/agda/issues/4576

One possible way of fixing it is to change the signature of the `trans` parameter to `Term`. A user would then have to pass `quoteTerm trans` instead of `trans`. This then misses out on type checking of `trans` when the module is imported.

Comment (dylanede) [reply src/Tactic/Cong.agda:16]: It actually looks like fixing this properly would only require a very small patch to Agda.

**Comment by WolframKahl** [comment]
> I kind of like the look of `〖〗`, but that looks like it is difficult to type in emacs.

I would introduce keyboard shortcuts `\[(` and `\)]` for those.

**Comment by nad** [comment]
I haven't studied your code, but I have similar code in one of my developments:

* http://www.cse.chalmers.se/~nad/listings/equality/Tactic.By.html
* http://www.cse.chalmers.se/~nad/listings/equality/Tactic.By.Propositional.html
* http://www.cse.chalmers.se/~nad/listings/equality/Tactic.By.Path.html
* http://www.cse.chalmers.se/~nad/listings/equality/Tactic.By.Id.html
* http://www.cse.chalmers.se/~nad/listings/equality/Tactic.By.Parametrised.html
* `git clone http://www.cse.chalmers.se/~nad/repos/equality/`

I have two tactics, one that tries to infer the context automatically (`by`), and one that is perhaps more similar to yours (`⟨by⟩`). The latter one is typically faster, but I often avoid using also this one, because it tends to make type-checking noticeably slower, and it does not handle all code that I would like it to handle. Is your tactic faster? And does it pass all the unit tests in my code (including those that I have commented out)?

File: src/Tactic/Cong.agda (hunk 4 above)
Comment (dylanede) [reply src/Tactic/Cong.agda:16]: I have now opened https://github.com/agda/agda/pull/4579. If that PR goes through, I guess this PR would need to be made against the experimental branch instead of master?

**Comment by dylanede** [comment]
With a revised version of the macro (not yet pushed), proofs like this now work:
```agda
qu : (a b c d : ℤ) → a + b + c ≤ d → b + a + c ≤ d
qu a b c d  a+b+c≤d = begin
  ⌊ b + a ⌋ + _ ≡⌊ +-comm b _ ⌋
  a + b + c     ≤⟨ a+b+c≤d ⟩
  d             ∎
```
Notice that `_` can be used in any of the arguments to `_≡⌊_⌋_`, which is something agda-holes could not do.

This new version depends on a PR I have submitted to Agda itself: https://github.com/agda/agda/pull/4579

Therefore I would like to change this PR to be against experimental instead of master, however experimental seems to be out of date with respect to master currently, so perhaps it should be updated first? @MatthewDaggitt?

@nad: I will have to check your code out at some point.

**Comment by dylanede** [comment]
I have pushed to this PR the new, reworked version of `Tactic.Cong`. The build will currently fail since it depends on https://github.com/agda/agda/pull/4579, but you should be able to get a feel of what is now possible by looking at the revamped README module.

File: README/Tactic/Cong.agda (hunk 12 above)
Comment (dylanede) [reply README/Tactic/Cong.agda]: There is now an example using `≤` for `ℤ`.

I don't think the unsupported forms of inline relation definitions are that big of a deal. At any rate I think they can eventually be supported in a backward compatible way, so I'll leave that out of this PR.

File: src/Tactic/Cong/Id.agda (hunk 15 above)
Comment (dylanede) [reply src/Tactic/Cong/Id.agda]: I now have this definition living in Tactic.Cong.Common, along with some other useful definitions. One benefit of keeping this separate is that you can have multiple instances of Tactic.Cong opened in scope (with renamed versions of `_≈⌊_⌋_`) without having multiple copies of these other definitions around causing ambiguity errors.

**Comment by dylanede** [comment]
By the way @MatthewDaggitt, I'm marking your review comments as resolved as I go along just as a way of tracking what I have dealt with. Feel free to un-resolve them.

File: src/Tactic/Cong.agda (hunk 4 above)
Comment (dylanede) [reply src/Tactic/Cong.agda]: Resolving, since https://github.com/agda/agda/pull/4579 has been merged.

File: README/Tactic/Cong.agda (hunk 12 above)
Comment (dylanede) [reply README/Tactic/Cong.agda]: Actually, I think I might be able to make `_≈⌊_⌋_` robustly work with inline relations with no restrictions, but not the standalone macro `⌊⌋`.

File: CHANGELOG.md (hunk 1 above)
Comment (dylanede) [reply CHANGELOG.md]: Types have been added as requested, but I'm leaving this conversation unresolved to remind me to resolve my above comment.

Comment (MatthewDaggitt) [reply CHANGELOG.md]: Pinging @UlfNorell?

File: src/Tactic/Cong.agda (hunk 16 above)
Comment (MatthewDaggitt) [reply src/Tactic/Cong.agda]: Nope, so maybe leave it out for the moment, and we'll add it in later when we've decided.

**Comment by MatthewDaggitt** [comment]
> Maybe I should switch back to ⌞⌟ that agda-holes uses? 

In my opinion I think those are even less noticeable visually.

> Personally I'm not overly keen on ⟪_⟫ because in my own code I use that extensively for other purposes, but that probably should not weigh on the decision.

That's a fine reason, I also use them so I wouldn't be too against avoiding them.

>> I kind of like the look of `〖〗`, but that looks like it is difficult to type in emacs.
>
> I would introduce keyboard shortcuts `\[(` and `\)]` for those.

That could definitely work, and I'd be happy with those!

> Therefore I would like to change this PR to be against experimental instead of master, however experimental seems to be out of date with respect to master currently, so perhaps it should be updated first? @MatthewDaggitt?

@gallais I've just tried to update experimental and got a massive merge conflict in `.travis.yml`. I can try and resolve it if you don't have the time, but I'm a little scared of breaking something? Any chance you could take a quick look?

File: CHANGELOG.md (hunk 1 above)
Comment (UlfNorell) [reply CHANGELOG.md]: Counting the dot pattern is a bug in agda-prelude (thanks for finding!). It used to be that dot patterns counted as deBruijn indices, but this got fixed in agda/agda#2203.

**Comment by dylanede** [comment]
Slightly off-topic: is there a better font I can use in emacs that is monospace  even for symbols like `⦃` and `〖`? Or is there a setting I can use in emacs to force fixed width? `〖` for example currently sits at one and a half normal widths, which is a pain. I am using DejaVu Sans Mono.

File: CHANGELOG.md (hunk 1 above)
Comment (dylanede) [reply CHANGELOG.md]: OK, thanks for clearing that up. I've corrected my copy of that function.

File: README/Tactic/Cong.agda (hunk 12 above)
Comment (dylanede) [reply README/Tactic/Cong.agda]: Implemented. Resolved.

**Comment by nad** [comment]
I tried your code. Here are some unit tests:
```agda
open import Category.Functor
open import Category.Monad.Indexed
open import Data.Bool
open import Data.List
open import Data.Maybe
import Data.Maybe.Categorical as MC
open import Data.Nat
open import Data.Product
open import Data.Unit
open import Relation.Binary.PropositionalEquality
open import Tactic.Cong.Common
open import Tactic.Cong.PropEq.ForAllTypes 0 _≡_ trans

open ≡-Reasoning
open RawIMonad ⦃ … ⦄

instance

  mm : ∀ {f} → RawIMonad {f = f} {I = ⊤} (λ _ _ → Maybe)
  mm = MC.monad

module _
  (assumption : 48 ≡ 42)
  (lemma      : ∀ n → n + 8 ≡ n + 2)
  (f          : ℕ → ℕ → ℕ → ℕ)
  where

  g : ℕ → ℕ → ℕ → ℕ
  g zero    _ _ = 12
  g (suc _) _ _ = 12

  fst : ∀ {a b} {A : Set a} {B : A → Set b} →
        Σ A B → A
  fst = proj₁

  {-# NOINLINE fst #-}

  test₁ : ⌞ 40 + 2 ⌟ ≡ 42
  test₁ = ⌊⌋ lhs refl

  test₂ : 48 ≡ 42 → ⌞ 42 ⌟ ≡ 48
  test₂ eq = ⌊⌋ lhs (sym eq)

  test₃ : (f : ℕ → ℕ) → f ⌞ 42 ⌟ ≡ f 48
  test₃ f = ⌊⌋ lhs (sym assumption)

  test₄ : (f : ℕ → ℕ) → f ⌞ 48 ⌟ ≡ f 42
  test₄ f = ⌊⌋ lhs assumption

  test₅ : (f : ℕ → ℕ → ℕ) → f ⌞ 42 ⌟ ⌞ 42 ⌟ ≡ f 48 48
  test₅ f = ⌊⌋ lhs (sym assumption)

  test₆ : (f : ℕ → ℕ → ℕ → ℕ) → f ⌞ 48 ⌟ 45 ⌞ 48 ⌟ ≡ f 42 45 42
  test₆ f = ⌊⌋ lhs assumption

  test₇ : f ⌞ 48 ⌟ (f ⌞ 48 ⌟ 45 ⌞ 48 ⌟) ⌞ 48 ⌟ ≡ f 42 (f 42 45 42) 42
  test₇ = ⌊⌋ lhs assumption

  test₈ : ∀ n → g n (g n 45 ⌞ 48 ⌟) ⌞ 48 ⌟ ≡ g n (g n 45 42) 42
  test₈ n = ⌊⌋ lhs assumption

  test₉ : (f : ℕ → ℕ) → f ⌞ 42 ⌟ ≡ f 48
  test₉ f = ⌊⌋ lhs (sym (lemma 40))

  -- test₁₀ : (f : ℕ → ℕ) → f ⌞ 42 ⌟ ≡ f 48
  -- test₁₀ f = ⌊⌋ lhs (λ (_ : ⊤) → assumption)

  test₁₁ : (f : ℕ × ℕ → ℕ × ℕ) → (∀ x → ⌞ _≡_ ⌟ (f x) x) →
           fst ⌞ f (12 , 73) ⌟ ≡ fst {B = λ _ → ℕ} (12 , 73)
  test₁₁ _ hyp = ⌊⌋ lhs (hyp _)

  -- test₁₂ : (h : ℕ → Maybe ℕ) →
  --          ((xs : ℕ) → h xs ≡ just xs) →
  --          (xs : ℕ) → (suc <$> h xs) ≡ (suc <$> return xs)
  -- test₁₂ h hyp xs = begin
  --   suc <$> ⌞ h xs ⌟   ≡⌊ hyp xs ⌋
  --   suc <$> return xs  ∎

  -- test₁₃ : (h : List ⊤ → Maybe (List ⊤)) →
  --          ((xs : List ⊤) → h xs ≡ just xs) →
  --          (x : ⊤) (xs : List ⊤) → _
  -- test₁₃ h hyp x xs = begin
  --   _∷_ <$> return x ⊛ ⌞ h xs ⌟   ≡⌊ hyp xs ⌋
  --   _∷_ <$> return x ⊛ return xs  ∎

  -- test₁₄ : (h : List ℕ → Maybe (List ℕ)) →
  --          ((xs : List ℕ) → h xs ≡ just xs) →
  --          (x : ℕ) (xs : List ℕ) → _
  -- test₁₄ h hyp x xs = begin
  --   _∷_ <$> ⌞ h xs ⌟   ≡⌊ hyp xs ⌋
  --   _∷_ <$> return xs  ∎

  test₁₅ :
    (F : Set → Set → Set)
    (G : Bool → Set → Set) →
    ((A : Set) → F (G false A) A ≡ G false (F A A)) →
    (A : Set) →
    G false (F (G false A) A) ≡
    G false (G false (F A A))
  test₁₅ F G hyp A = begin
    G false ⌞ F (G false A) A ⌟  ≡⌊ hyp _ ⌋
    G false (G false (F A A))    ∎

  test₁₆ : 48 ≡ 42 →
           _≡_ {A = ℕ → ℕ} (λ x → x + ⌞ 42 ⌟) (λ x → x + 48)
  test₁₆ hyp = ⌊⌋ lhs (sym hyp)

  test₁₇ :
    (P : ℕ → Set)
    (f : ∀ {n} → P n → P n)
    (p : P 0) →
    f ⌞ subst P refl p ⌟ ≡ f p
  test₁₇ P _ _ = ⌊⌋ lhs refl

  -- test₁₈ :
  --   (subst′ :
  --      ∀ {a p} {A : Set a} {x y : A}
  --      (P : A → Set p) → x ≡ y → P x → P y) →
  --   (∀ {a p} {A : Set a} {x : A} (P : A → Set p) (p : P x) →
  --    subst′ P refl p ≡ p) →
  --   (P : ℕ → Set)
  --   (f : ∀ {n} → P n → P n)
  --   (p : P 0) →
  --   f ⌞ subst′ P refl p ⌟ ≡ f p
  -- test₁₈ _ subst′-refl _ _ _ = ⌊⌋ lhs (subst′-refl _ _)
```
I've commented out those test cases that fail. My tactic handles all of the test cases above, except for `test₁` and `test₁₇`. The test cases containing `sym` also work if `sym` is removed, and the test cases involving `hyp _` or `(subst′-refl _ _)` work if the underscores are removed from these subexpressions.

**Comment by dylanede** [comment]
Thanks for those test cases @nad! I'm working my way through them now.

I've just had a look at the first failure, `test₁₀`, and I do not understand why that test is meant to pass. The second argument to `⌊⌋` should be of type `42 ≡ 48`, but you are providing something of type `⊤ → 48 ≡ 42`. This test seems identical in all other respects to `test₃`. Is there perhaps something lost in translation from your code base?

**Comment by dylanede** [comment]
Also, which test cases "containing sym" and/or "involving `hyp _`" are you referring to? All of the ones I can see using those terms are uncommented and work fine. Or did you mean those ones don't work with your tactic?

**Comment by dylanede** [comment]
`test₁₂ ` (and presumably the others similar to it) is interesting. It exhibits the same problem in this form:
```agda
  test₁₂ : (h : ℕ → Maybe ℕ) →
           ((xs : ℕ) → h xs ≡ just xs) →
           (xs : ℕ) → (suc <$> h xs) ≡ (suc <$> return xs)
  test₁₂ h hyp xs = begin
    suc <$> ⌞ h xs ⌟   ≡⟨ ⌊⌋ lhs (hyp xs) ⟩
    suc <$> return xs  ∎
```

At the point at which `⌊⌋` is called, the type of the lhs, `suc <$> ⌞ h xs ⌟`, resolves to:
```text
(Category.Applicative.Indexed.RawIApplicative.rawFunctor
 (RawIMonad.rawIApplicative _r_404)
 RawFunctor.<$> suc)
_412
```
These unresolved metavariables are what is stopping the macro from finding the instance of `⌞⌟` within them. However what is interesting is that if you instead try the following:
```agda
  test₁₂ : (h : ℕ → Maybe ℕ) →
           ((xs : ℕ) → h xs ≡ just xs) →
           (xs : ℕ) → (suc <$> h xs) ≡ (suc <$> return xs)
  test₁₂ h hyp xs = begin
    suc <$> ⌞ h xs ⌟   ≡⟨ {!!} ⟩
    suc <$> return xs  ∎
```
then the type deduced for the lhs of the hole is printed as
```text
(Category.Applicative.Indexed.RawIApplicative.rawFunctor
     (RawIMonad.rawIApplicative
      (MC.monadT Function.Identity.Categorical.monad))
     RawFunctor.<$> suc)
    ⌞ h xs ⌟
```
So by this point the metavariables have been resolved, seemingly with no more information than was available earlier. Indeed, if one now tries to fill the hole with `⌊⌋ lhs (hyp xs)`, Agda is happy with it, but subsequent reloads of the file fail to typecheck.

**Comment by dylanede** [comment]
I _think_ solving this might require use of `blockOnMeta`.

**Comment by ajrouvoet** [comment]
> A notation question while we're here. I'm not sure what the origin of using ⌊ and ⌋ in the original holes library was, but I actually find them kind of hard to spot in the big equational reasoning proofs.

I think that there is something to be said for notation that doesn't steal the show here. They should be unintrusive because you're just trying to read a term whose meaning is not affected by the hole marks. In an on-paper proof you wouldn't mark the whole at all and most and usually you can still easily spot where the rewriting occurs.

**Comment by nad** [comment]
> I _think_ solving this might require use of `blockOnMeta`.

I'm using `blockOnMeta`. Feel free to make use of my code, I think it uses the same licence as the standard library.

**Comment by dylanede** [comment]
Right, I've got all of those test cases passing now by using `blockOnMeta`, except `test₁₀`, which is not something expected to work since this tactic does not have the magic coercion that @nad's tactic does, and `test₁₈`. Note that a small variation on `test₁₈` _does_ work:

```agda
  test₁₈ :
    (subst′ :
       ∀ {a p} {A : Set a} {x y : A}
       (P : A → Set p) → x ≡ y → P x → P y) →
    (∀ {a p} {A : Set a} {x : A} (P : A → Set p) (p : P x) →
     subst′ P refl p ≡ p) →
    (P : ℕ → Set)
    (f : ∀ {n} → P n → P n)
    (p : P 0) →
    f ⌞ subst′ P refl p ⌟ ≡ f p
  test₁₈ _ subst′-refl P _ _ = ⌊⌋ lhs (subst′-refl P _)
```
The difference is that the `P` argument to subst'-refl is no longer left to be inferred. The original version of `test₁₈` gives these unsolved metavariables:
```agda
_1064 : f₁ ⌞ subst′ P refl p ⌟ ≡ f₁ p  [ at Tests.agda:127,32-55 ]
_y_1068 : _P_1073 _x_1072  [ at Tests.agda:127,32-34 ]
_a_1069 : Agda.Primitive.Level  [ at Tests.agda:127,40-51 ]
_A_1071 : Set _a_1069  [ at Tests.agda:127,40-51 ]
_x_1072 : _A_1071  [ at Tests.agda:127,40-51 ]
_P_1073 : _A_1071 → Set  [ at Tests.agda:127,52-53 ]

———— Errors ————————————————————————————————————————————————
Failed to solve the following constraints:
  _y_1068 = p : P 0
  subst′ _P_1073 refl _y_1068 = subst′ P refl p : P 0
  _P_1073 _x_1072 =< P 0
```

I have tested providing everything apart from `P` (including all implicit arguments), which results in

```agda
_1064 : f ⌞ subst′ P refl p ⌟ ≡ f p  [ at Tests.agda:127,32-75 ]
_y_1068 : _P_1069 0  [ at Tests.agda:127,32-34 ]
_P_1069 : ℕ → Set (# 0)  [ at Tests.agda:127,72-73 ]

———— Errors ————————————————————————————————————————————————
Failed to solve the following constraints:
  _y_1068 = p : P 0
  subst′ _P_1069 refl _y_1068 = subst′ P refl p : P 0
  _P_1069 0 =< P 0
  P 0 =< _P_1069 0
```

So it really is hinging on `P`.

**Comment by nad** [comment]
I tried to figure out why my tactic is slow, and this led me to report some problems related to `blockOnMeta`: https://github.com/agda/agda/issues/4593, https://github.com/agda/agda/issues/4594.

**Comment by nad** [comment]
I could make the tactic run faster in some cases by blocking on the last meta-variable instead of the first one. If the last meta-variable is solved after the first one, then this approach might lead to fewer invocations of the tactic.

**Comment by MatthewDaggitt** [comment]
> Right, I've got all of those test cases passing now by using blockOnMeta

That's great news! One of the cases that I'm really interested in is using setoid rather than propositional equality. I think you mentioned that it worked for that, but I can't see one added yet. Does the following work?
```agda
module _ (S : CommutativeSemigroup a l) where
  open CommutativeSemigroup S
  open import Relation.Binary.Reasoning.Setoid setoid

  qu : (a b c d : ℤ) → a + b + c ≈ b + (a + c)
  qu a b c d  a+b+c≤d = begin
    ⌊ a + b ⌋ + c ≈⌊ +-comm a b ⌋
    b + a + c     ≈⟨ +-assoc b a c ⟩
    b + (a + c)   ∎
  
```

**Comment by nad** [comment]
> Oh, I see now that you mean that you mean that your tactic implicitly handles sym-ifying terms and applying metavariables. Personally I am not yet sold on introducing that level of magic.

Applying the term to meta-variables is unproblematic if the term's type can be inferred, but there is no guarantee that the meta-variables will be solved. For `sym` I use backtracking, I can see why one might not want to do that. When everything works I think it is nice to be able to write things like `by associativity` instead of `by (associativity x y z)`.

**Comment by MatthewDaggitt** [comment]
> I think that there is something to be said for notation that doesn't steal the show here. They should be unintrusive because you're just trying to read a term whose meaning is not affected by the hole marks. In an on-paper proof you wouldn't mark the whole at all and most and usually you can still easily spot where the rewriting occurs.

Hmm I can definitely see your point @ajrouvoet. What are other people's thoughts? Is it better to be unobtrusive and closer to pen-and-paper or is it better to make it clearer what's going on?

**Comment by JacquesCarette** [comment]
Personally, I don't think this is a valid X or Y question.  I think there are contexts in which each is useful.

For example, I think that the standard library should use a clear (if sometimes verbose) style.  Proofs meant for users to read, i.e. where users are the primary audience of the proof, then closer to pen-and-paper is advantageous.

In other words, I suggest having 2 (sub)modules, with the user having a choice of which to use.

There is definitely a question of choosing a default, as it is unfair to ask *everyone* to have to make a choice [as too many won't have the necessary information to be able to make it.]  I don't have strong opinions there. I slightly lean towards the one with more-magic-included as the default, as that will please beginners, and experts ought to know how to select alternate modules. Beginners tend to worry less about efficiency (as they are still in learning mode), but should be informed that 'magic' is not free.

**Comment by nad** [comment]
I have a tactic which infers the context automatically. This one tends to be slower and to fail more often, but when it works one gets away with zero annotations.

**Comment by nad** [comment]
> Right, I've got all of those test cases passing now by using `blockOnMeta`, except […] `test₁₈`.

My code handles `test₁₈`, at the expense of `test₁`, by generating "`cong _ _ f proof`" rather than "`cong lhs rhs f proof`".

**Comment by dylanede** [comment]
> That's great news! One of the cases that I'm really interested in is using setoid rather than propositional equality. I think you mentioned that it worked for that, but I can't see one added yet. Does the following work? ...

The problem with `Setoid` is that it doesn't come with a general congruence rule, i.e. `∀ f x y → x ≈ y → f x ≈ f y`. And in fact, this is often not possible for many equivalence relations `_≈_`. It can however be proven for many individual instances of `f`, and is for example provided by `isMagma` instances for binary operations. agda-holes had begun down a path that would eventually automate use of these individual instances by letting the user provide a "database" of congruences the tactic can use. I purposefully left that out for this particular PR, as that is a lot of work. The macro would need to identify all of the operations that the hole is embedded in and construct a chain of calls to the various congruence rules. You would also typically want to allow congruence rules to be provided on the fly, for example for local function definitions, and I'm not sure how best to allow that.

Note that once such a "database" feature exists, it should be possible to have a simple function that turns a `CommutativeSemigroup` instance (for example) into such a database by extracting the magmas, so it would still be simple to use the macro.

**Comment by dylanede** [comment]
> In other words, I suggest having 2 (sub)modules, with the user having a choice of which to use.

@JacquesCarette , surely all that is needed is for the user to rename `⌊_⌋` and friends when importing them? Or do you mean one module with magic and one without, rather than the notation issue @MatthewDaggitt and @ajrouvoet were talking about?

**Comment by dylanede** [comment]
> I have a tactic which infers the context automatically. This one tends to be slower and to fail more often, but when it works one gets away with zero annotations.

@nad, does that rely on the two sides of the relation having very similar structure, so that you can spot the relevant differences between them?

**Comment by JacquesCarette** [comment]
I mean one module with magic and one without. Magic is fragile and can have hard-to-predict computational cost.

**Comment by dylanede** [comment]
The more I think about it, the more I think that instance search would be the ideal solution for the "database" of congruences. So as long as you had an `instance` of congruence for a given function in scope with respect to the equivalence relation, the (theoretical) macro would be able to find it for each function it encounters and use it to build up the required chain.

**Comment by JacquesCarette** [comment]
It is indeed the ideal kind of magic...

**Comment by nad** [comment]
> @nad, does that rely on the two sides of the relation having very similar structure, so that you can spot the relevant differences between them?

Yes.

**Comment by nad** [comment]
Here is another test case that fails:
```agda
{-# OPTIONS --cubical #-}

open import Agda.Builtin.Cubical.Path

postulate
  cong  : ∀ {a b} {A : Set a} {B : Set b}
          (f : A → B) {x y : A} → x ≡ y → f x ≡ f y
  trans : ∀ {a} {A : Set a} {x y z : A} → x ≡ y → y ≡ z → x ≡ z

infix  -1 finally
infixr -2 _≡⟨⟩_

_≡⟨⟩_ : ∀ {a} {A : Set a} (x {y} : A) → x ≡ y → x ≡ y
_ ≡⟨⟩ x≡y = x≡y

finally : ∀ {a} {A : Set a} (x y : A) → x ≡ y → x ≡ y
finally _ _ x≡y = x≡y

syntax finally x y x≡y = x ≡⟨ x≡y ⟩∎ y ∎

open import Tactic.Cong.Common
open import Tactic.Cong 2 _≡_ cong ℓSet projₗ projₛ _≡_ trans

record R (F : Set → Set) : Set₁ where
  field
    p : {A : Set} {x : F A} → x ≡ x

open R ⦃ … ⦄ public

test :
  {F : Set → Set} ⦃ r : R F ⦄ {A : Set} {x₁ x₂ : F A}
  (p₁ p₂ : x₁ ≡ x₂) (assumption : p₁ ≡ p₂) →
  trans p p₁ ≡ trans p p₂
test p₁ p₂ assumption =
  trans p p₁      ≡⟨⟩
  trans p ⌞ p₁ ⌟  ≡⟨ ⌊⌋ lhs assumption ⟩∎
  trans p p₂      ∎
```
See https://github.com/agda/agda/issues/4067.
